US04125732
(p-tert.-Butylphenoxy){p-[2-(p-chlorophenoxy)propoxy]phenyl}acetic acid
A mixture of 6.4 g of methyl(p-tert.-butylphenoxy){p-[2-(p-chlorophenoxy)propoxy]phenyl}acetate, 4 g of potassium hydroxide, 35 ml of ethanol and 35 ml of water is refluxed for 4 hours. The mixture is acidified with concentrated HCl, cooled, diluted with water and extracted with dichloromethane. The extract is washed with saturated NaCl solution, dried (MgSO4) and the solvent removed under reduced pressure to give 5.7 g of gum. Crystallization from hexane-ether gives 4.5 g of white crystals. Recrystallization from chloroform-hexane gives the product as white crystals, mp 135°-138° C.

reactant | methyl(p-tert.-butylphenoxy){p-[2-(p-chlorophenoxy)propoxy]phenyl}acetate | 6.4 g | COC(C(C1=CC=C(C=C1)OCC(C)OC1=CC=C(C=C1)Cl)OC1=CC=C(C=C1)C(C)(C)C)=O | C28H31ClO5
reactant | potassium hydroxide | 4 g | [OH-].[K+]
reactant | ethanol | 35 ml | C(C)O | C2H6O
reactant | HCl | Cl | ClH
solvent | water | O | H2O
solvent | water | 35 ml | O | H2O
product | (p-tert.-Butylphenoxy){p-[2-(p-chlorophenoxy)propoxy]phenyl}acetic acid | 5.7 g | C(C)(C)(C)C1=CC=C(OC(C(=O)O)C2=CC=C(C=C2)OCC(C)OC2=CC=C(C=C2)Cl)C=C1 | C27H29ClO5
